### PR TITLE
feat: define `updateFinset` which updates a finite number components of a vector

### PR DESCRIPTION
**Pull request by fpvandoorn**
* from the Sobolev project (formerly: marginal project)

### CODE REVIEW

File: Mathlib/Data/Finset/Basic.lean [hunk 1]
```diff
@@ -836,6 +836,12 @@ instance [IsEmpty α] : Unique (Finset α) where
   default := ∅
   uniq _ := eq_empty_of_forall_not_mem isEmptyElim
 
+instance (i : α) : Unique ({i} : Finset α) :=
+  ⟨⟨⟨i, mem_singleton_self i⟩⟩, fun j ↦ Subtype.ext <| mem_singleton.mp j.2⟩
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Basic.lean:840]:
```suggestion
instance (i : α) : Unique ({i} : Finset α) where
  default := ⟨i, mem_singleton_self i⟩; uniq j := Subtype.ext <| mem_singleton.mp j.2
```
avoids the mess of angle brackets

File: Mathlib/Data/Finset/Basic.lean [hunk 2]
```diff
@@ -3835,6 +3841,30 @@ def sigmaEquivOptionOfInhabited (α : Type u) [Inhabited α] [DecidableEq α] :
           · simp }⟩
 #align equiv.sigma_equiv_option_of_inhabited Equiv.sigmaEquivOptionOfInhabited
 
+variable [DecidableEq α] {s t : Finset α}
+/-- `s ∪ t` (using finset union) is equivalent to `s ∪ t` (using set union) -/
+@[simps!]
+def finsetUnion (s t : Finset α) :
+    ((s ∪ t : Finset α) : Set α) ≃ (s ∪ t : Set α) :=
+  subtypeEquivRight <| by simp
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Basic.lean:3849]: This is arguably slightly better typed:
```suggestion
  Equiv.Set.ofEq <| coe_union _ _
```

File: Mathlib/Data/Finset/Basic.lean [hunk 3]
```diff
@@ -3835,6 +3841,30 @@ def sigmaEquivOptionOfInhabited (α : Type u) [Inhabited α] [DecidableEq α] :
...
+
+/-- The disjoint union of finsets is a sum -/
+def finsetUnionEquivSum (s t : Finset α) (h : Disjoint s t) :
+    (s ∪ t : Finset α) ≃ s ⊕ t :=
+  (Equiv.finsetUnion s t).trans <| Equiv.Set.union <| by
+    rw [← Finset.coe_inter, ← Finset.coe_empty]
+    exact h.le_bot
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Basic.lean:3856]:
```suggestion
  (Equiv.finsetUnion s t).trans <| Equiv.Set.union (disjoint_coe.mpr h).le_bot

File: Mathlib/Data/Finset/Basic.lean [hunk 4]
```diff
@@ -3835,6 +3841,30 @@ def sigmaEquivOptionOfInhabited (α : Type u) [Inhabited α] [DecidableEq α] :
...
 
+variable [DecidableEq α] {s t : Finset α}
+/-- `s ∪ t` (using finset union) is equivalent to `s ∪ t` (using set union) -/
+@[simps!]
+def finsetUnion (s t : Finset α) :
+    ((s ∪ t : Finset α) : Set α) ≃ (s ∪ t : Set α) :=
+  subtypeEquivRight <| by simp
+
+/-- The disjoint union of finsets is a sum -/
+def finsetUnionEquivSum (s t : Finset α) (h : Disjoint s t) :
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Basic.lean:3852]: I'd argue this should be `Equiv.Finset.union` to match `Equiv.Set.union`

File: Mathlib/Data/Finset/Update.lean [hunk 5]
```diff
@@ -0,0 +1,62 @@
...
+variable {ι : Sort _} {π : ι → Sort _} {x : ∀ i, π i}
+
+namespace Function
+
+/-- `updateFinset x s y` is the vector `x` with the coordinates in `s` changed to the values of `y`.
+
+We should generalize `updateFinset` to `SetLike` instead of restricting to `Finset`.
+However, at the moment `Finset` is not `SetLike`, so we cannot do this yet.
+-/
+def updateFinset (x : ∀ i, π i) (s : Finset ι) [DecidablePred (· ∈ s)]
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Update.lean:23]: I assume there's a reason you didn't just use `[DecidableEq _]` here? If so, can you add it to the docstring?

File: Mathlib/Data/Finset/Update.lean [hunk 6]
```diff
@@ -0,0 +1,62 @@
...
+    (y : ∀ i : ↥s, π i) (i : ι) : π i :=
+  if hi : i ∈ s then y ⟨i, hi⟩ else x i
+
+open Finset Equiv
+
+theorem updateFinset_empty [DecidableEq ι] {y} : updateFinset x ∅ y = x :=
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Update.lean:29]:
```suggestion
@[simp] theorem updateFinset_empty [DecidableEq ι] {y} : updateFinset x ∅ y = x :=
```

**Review by eric-wieser — COMMENTED** [review]
I'm out of time for now

File: Mathlib/Data/Finset/Update.lean (hunk 5 above)
Comment (fpvandoorn) [reply Mathlib/Data/Finset/Update.lean]: `DecidablePred` generalizes better to other `SetLike` things. But I was inconsistently using `DecidableEq` in the rest of the file, so I just use that everywhere.

File: Mathlib/Data/Finset/Update.lean [hunk 7]
```diff
@@ -0,0 +1,61 @@
...
+
+namespace Function
+
+/-- `updateFinset x s y` is the vector `x` with the coordinates in `s` changed to the values of `y`.
+
+We should generalize `updateFinset` to `SetLike` instead of restricting to `Finset`.
+However, at the moment `Finset` is not `SetLike`, so we cannot do this yet.
+-/
+def updateFinset (x : ∀ i, π i) (s : Finset ι) (y : ∀ i : ↥s, π i) (i : ι) : π i :=
+  if hi : i ∈ s then y ⟨i, hi⟩ else x i
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Update.lean:24]: It's not clear to me what the benefit of defining this on `Finset` is:
``suggestion
/-- `updateSet x s y` is the vector `x` with the coordinates in `s` changed to the values of `y`.

This is `Set.piecewise` where the left argument `x` is dependently-typed
-/
def updateSet (x : ∀ i, π i) (s : Set ι) [DecidablePred (· ∈ s)]  (y : ∀ i : ↥s, π i) (i : ι) : π i :=
  if hi : i ∈ s then y ⟨i, hi⟩ else x i
```

Comment (fpvandoorn) [reply Mathlib/Data/Finset/Update.lean:24]: I definitely want to apply this to `Finset`. I need to integrate over a `Pi`-type over this Finset at some point.

Your suggestion means that I need to coerce the `Finset` to `Set`. It also means that all lemmas I want are inconveniently stated in terms of `Set`-operations instead of `Finset`-operations. This makes it less convenient to work with.

The proper way to do this is to define this for all `SetLike` objects, but this is impossible at the moment, as the docstring describes.

Comment (eric-wieser) [reply Mathlib/Data/Finset/Update.lean:24]: > So I need to add a bunch of rewrites commuting coercions with operations.

Shouldn't `norm_cast` handle this?

> The proper way to do this is to define this for all `SetLike` objects

I'd argue this is much worse, because now you need separate lemmas about `updateSet _ (s ∩ t)` for `Set` and `Finset`, and another seven or so for `updateSet _ (s ⊓ t)` for `Submonoid`, `Submodule`, .... Then you have to repeat this for `bot` and `iInf` and `sInf`.

If you do it for `set` you only need to write thes once.

Comment (fpvandoorn) [reply Mathlib/Data/Finset/Update.lean:24]: I gave this an honest try to use `updateSet` in our work. It is in https://github.com/leanprover-community/mathlib4/commit/d0aa7ef5d825085f84717d5eb8008c3910b90d3a but it a lot less nice.

In the theorem `marginal_union` I do the following calculation (`s` and `t` are Finsets):
```
(∫⋯∫_s ∪ t, f ∂μ) x = 
∫⁻ (y : (i : ↥(s ∪ t)) → π i), f (updateFinset x (s ∪ t) y) ∂.pi fun i' : ↥(s ∪ t) ↦ μ i'
```
This is true by definition when using `updateFinset`.

When using `updateSet`, I have to be very careful to use `Finset`-unions. If I use `Set`-unions, then there are multiple places where the expression becomes type-incorrect.

The rest of the calculation mostly goes through the same, if I'm very careful by explicitly stating where the coercions should be added. Some lemmas I still need to formulate for `Finset` specifically, and sometimes I can use `Set` analogues.

I strongly prefer to keep `updateFinset`. If you don't like this specificity, I'd be happy to call it `marginalAux` or something (that was actually the original name, until I thought that this operation might be more generally useful.

File: Mathlib/Data/Finset/Basic.lean [hunk 8]
```diff
@@ -3847,6 +3856,35 @@ def sigmaEquivOptionOfInhabited (α : Type u) [Inhabited α] [DecidableEq α] :
...
 #align equiv.sigma_equiv_option_of_inhabited Equiv.sigmaEquivOptionOfInhabited
 
+variable [DecidableEq α] {s t : Finset α}
+/-- `s ∪ t` (using finset union) is equivalent to `s ∪ t` (using set union) -/
+@[simps!]
+def finsetUnion (s t : Finset α) :
+    ((s ∪ t : Finset α) : Set α) ≃ (s ∪ t : Set α) :=
+  Equiv.Set.ofEq <| coe_union _ _
+
+/-- The disjoint union of finsets is a sum -/
```
Comment (AntoineChambert-Loir) [inline Mathlib/Data/Finset/Basic.lean:3866]: This is not fundamental, but sums are coproducts, hence I'd write this lemma as a map from s + t to s cup t.

File: Mathlib/Data/Finset/Basic.lean [hunk 9]
```diff
@@ -3847,6 +3856,35 @@ def sigmaEquivOptionOfInhabited (α : Type u) [Inhabited α] [DecidableEq α] :
...
+  rfl
+
+@[simp]
+theorem Finset.union_symm_inr (h : Disjoint s t) (y : t) :
+    (Equiv.Finset.union s t h).symm (Sum.inr y) = ⟨y, Finset.mem_union.mpr <| Or.inr y.2⟩ :=
+  rfl
+
+/-- The type of dependent functions on the disjoint union of finsets `s ∪ t` is equivalent to the
+  type of pairs of functions on `s` and on `t`. This is similar to `Equiv.sumPiEquivProdPi`. -/
+def piFinsetUnion {ι} [DecidableEq ι] (α : ι → Type*) {s t : Finset ι} (h : Disjoint s t) :
```
Comment (AntoineChambert-Loir) [inline Mathlib/Data/Finset/Basic.lean:3883]: That one is written in the “correct” direction.

File: Mathlib/Data/Finset/Basic.lean (hunk 8 above)
Comment (fpvandoorn) [reply Mathlib/Data/Finset/Basic.lean:3867]: I indeed do use the symmetric version of these equivalences most of the time, so I've reversed them

File: Mathlib/Data/Finset/Basic.lean [hunk 10]
```diff
@@ -3850,6 +3859,36 @@ def sigmaEquivOptionOfInhabited (α : Type u) [Inhabited α] [DecidableEq α] :
           · simp }⟩
 #align equiv.sigma_equiv_option_of_inhabited Equiv.sigmaEquivOptionOfInhabited
 
+variable [DecidableEq α] {s t : Finset α}
+
+/-- `s ∪ t` (using finset union) is equivalent to `s ∪ t` (using set union) -/
+@[simps!]
+def finsetUnion (s t : Finset α) :
+    (s ∪ t : Set α) ≃ ((s ∪ t : Finset α) : Set α) :=
+  Equiv.Set.ofEq <| coe_union _ _ |>.symm
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Basic.lean:3868]: I'm not convinced this one is worth having; the space of equivs which can be proved with `Equiv.Set.ofEq` seems too large to justify giving any of them names.

File: Mathlib/Data/Finset/Basic.lean [hunk 11]
```diff
@@ -3850,6 +3859,36 @@ def sigmaEquivOptionOfInhabited (α : Type u) [Inhabited α] [DecidableEq α] :
...
+
+/-- The disjoint union of finsets is a sum -/
+def Finset.union (s t : Finset α) (h : Disjoint s t) :
+    s ⊕ t ≃ (s ∪ t : Finset α) :=
+  Equiv.Set.union (disjoint_coe.mpr h).le_bot |>.symm.trans <| Equiv.finsetUnion s t
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Basic.lean:3873]: I think it would be worth having a `disjUnion` version of this, since then you could drop the `[DecidableEq α]` assumption.

File: Mathlib/Logic/Function/Basic.lean [hunk 12]
```diff
@@ -645,6 +645,15 @@ theorem update_comp_eq_of_injective {β : Sort*} (g : α' → β) {f : α → α
...
 #align function.update_comp_eq_of_injective Function.update_comp_eq_of_injective
 
+theorem pred_update (P : ∀ ⦃a⦄, β a → Prop) (f : ∀ a, β a) (a' : α) (v : β a') (a : α) :
+    P (update f a' v a) ↔ a = a' ∧ P v ∨ a ≠ a' ∧ P (f a) := by
+  rw [update]
+  by_cases h : a = a'
+  · subst h
+    simp
+  · rw [← Ne.def] at h
+    simp [h]
```
Comment (eric-wieser) [inline Mathlib/Logic/Function/Basic.lean:655]:
```suggestion
  rw [apply_update P, update_apply, ite_prop_iff_or]
```

**Comment by digama0** [comment]
Note: I have pushed an update to the lean toolchain because this PR was on a [buggy version](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Potential.20data.20loss.20from.20.60lake.20clean.60.20with.204.2E2.2E0-rc2.2F3/near/397875701) of the toolchain. **WARNING**: checking out old commits of this PR using v4.2.0-rc2 or v4.2.0-rc3 can cause `lake clean` to delete your mathlib folder! If you need to do so, make sure to delete `lakefile.olean` manually before running any `lake` commands.

File: Mathlib/Data/Finset/Basic.lean (hunk 11 above)
Comment (fpvandoorn) [reply Mathlib/Data/Finset/Basic.lean:3873]: Then we would need to add `DecidablePred (· ∈ s)` to make `Equiv.Set.union` work. I don't see how that's better.

Comment (eric-wieser) [reply Mathlib/Data/Finset/Basic.lean]: Oh good point, you need to be able to decide which half of the disjoint union an element is in to produce the sum type.

**Review by jcommelin — APPROVED** [review]
LGTM

maintainer merge
